US06649643B1
Production of 6-[1-Hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]-2-naphthyl Trifluoromethanesulfonate
Trifluoromethanesulfonic anhydride (9.1 mL) was added dropwise to a solution of 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthol (27.0 g) in pyridine (200 mL) at 0° C. The reaction mixture was stirred for 1 h at 0° C., diluted with water and extracted with ethyl acetate. The organic layer was washed with brine, dried and concentrated. The residue was purified by silica gel column chromatography (eluent; hexane-ethyl acetate=1:1). Crystallization from diisopropyl ether gave the titled compound (29.6 g) as a colorless powder.

reactant | Trifluoromethanesulfonic anhydride | 9.1 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthol | 27.0 g | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)O | C36H32N2O2
solvent | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 6-[1-Hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]-2-naphthyl Trifluoromethanesulfonate | 29.6 g | FC(S(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)(F)F | C37H31F3N2O4S
